US08030311B2
Step 69.2: [4-(6-Chloro-purin-9-yl)-phenyl]-acetic acid ethyl ester
A mixture of [4-(5-amino-6-chloro-pyrimidin-4-ylamino)-phenyl]-acetic acid ethyl ester (0.178 g, 0.58 mmol) and triethyl orthoformate (4 mL, 23.3 mmol, 40 equiv) is stirred for 1 h at reflux. The resulting mixture is allowed to cool to rt and concentrated in vacuo to provide the title compound as a red solid: ES-MS: 317.0 [M+H]+; tR=4.06 min (System 1).

reactant | [4-(5-amino-6-chloro-pyrimidin-4-ylamino)-phenyl]-acetic acid ethyl ester | 0.58 mmol, 0.178 g | C(C)OC(CC1=CC=C(C=C1)NC1=NC=NC(=C1N)Cl)=O | C14H15ClN4O2
reactant | triethyl orthoformate | 23.3 mmol, 4 mL, 40 equiv | C(OCC)(OCC)OCC | C7H16O3
product | [4-(6-Chloro-purin-9-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)Cl)=O | C15H13ClN4O2
